US08445684B2
1-(tert-Butoxycarbonyl)-4-[2-(4-chlorobenzyloxy)ethyl]piperidine
A solution of 1-(tert-butoxycarbonyl)-4-(2-hydroxyethyl)piperidine (708 mg, 3.09 mmol) in anhydrous THF (15 mL) was cooled to 0° C., and NaH (60% dispersion in oil, 148 mg, 3.7 mmol, 1.2 equiv.) was added all at once. Alkoxide formation was effected by stirring at room temperature for 2 h under N2, then 4-chlorobenzyl chloride (597 mg, 3.7 mmol, 1.2 equiv.) and tetra-n-butylammonium iodide (114 mg, 0.31 mmol, 0.1 equiv.) were added. The mixture was stirred at room temperature for 20 h. Saturated aqueous NH4Cl solution was added, and the product was extracted into EtOAc. The organic layer was dried over Na2SO4 and concentrated. The residue was purified by CC (SiO2, hexane/EtOAc 4:1) to afford, after evaporation, 1-(tert-butoxycarbonyl)-4-[2-(4-chlorobenzyloxy)ethyl]piperidine (974 mg, 89%) as a pale yellow oil. 1H NMR (CDCl3, 400 MHz) δ 7.30 (d, 2H, J=8.4 Hz), 7.24 (d, 2H, J=6.8 Hz), 4.45 (s, 2H), 4.05 (d, 2H, J=13.2 Hz), 3.49 (t, 2H, J=6.0 Hz), 2.67 (t, 2H, J=12.8 Hz), 1.63 (d, 2H, J=13.6 Hz), 1.55 (m, 3H), 1.44 (s, 9H), 1.11 (m, 2H).

reactant | 1-(tert-butoxycarbonyl)-4-(2-hydroxyethyl)piperidine | 3.09 mmol, 708 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CCO | C12H23NO3
reactant | NaH | 3.7 mmol, 148 mg, 1.2 equiv. | [H-].[Na+]
reactant | 4-chlorobenzyl chloride | 3.7 mmol, 597 mg, 1.2 equiv. | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | tetra-n-butylammonium iodide | 0.31 mmol, 114 mg, 0.1 equiv. | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(tert-Butoxycarbonyl)-4-[2-(4-chlorobenzyloxy)ethyl]piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)CCOCC1=CC=C(C=C1)Cl | C19H28ClNO3
